US05807905
1-Bis(chloromesityl)boryl-3-dimesitylborylbenzene
The compound is prepared by Method B described above in a yield of 86%, using 1 equivalent of bis(chloromesityl)fluoroborane and 1 equivalent of dimesitylfluoroborane. Physical data are given in Table 1.

reactant | bis(chloromesityl)fluoroborane | 1 equivalent | ClC1=C(C(=C(C=C1C)C)B(F)C1=C(C=C(C(=C1C)Cl)C)C)C | C18H20BCl2F
reactant | dimesitylfluoroborane | 1 equivalent | C1(=C(C(=CC(=C1)C)C)B(F)C1=C(C=C(C=C1C)C)C)C | C18H22BF
product | 1-Bis(chloromesityl)boryl-3-dimesitylborylbenzene | yield of 86% | ClC1=C(C(=C(C=C1C)C)B(C1=CC(=CC=C1)B(C1=C(C=C(C=C1C)C)C)C1=C(C=C(C=C1C)C)C)C1=C(C=C(C(=C1C)Cl)C)C)C | C42H46B2Cl2
